US09278950B2
Step 1. 3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxylic acid
A mixture of ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate (300 mg, 0.7 mmol), 1-methylpiperazine (200 mg, 2 mmol), Pd(OAc)2 (20 mg), dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (49 mg, 0.10 mmol), and K3PO4 (580 mg, 2.8 mmol) in tert-butyl alcohol (10 mL) was purged with N2 prior and then heated at 100° C. in a sealed vial for 2 h. The mixture was allowed to cool, diluted with EtOAc, and then filtered through a diatomaceous earth plug. The filtrate was concentrated under reduced pressure. To the resulting residue, 10 mL of dioxane and 4 mL of 2.5 M NaOH were added.

reactant | ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate | 0.7 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)OCC | C20H17BrN2O4
reactant | 1-methylpiperazine | 2 mmol, 200 mg | CN1CCNCC1 | C5H12N2
reactant | dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine | 0.10 mmol, 49 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | K3PO4 | 2.8 mmol, 580 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | tert-butyl alcohol | 10 mL | C(C)(C)(C)O | C4H10O
catalyst | Pd(OAc)2 | 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCN(CC1)C)C(=O)O | C23H24N4O4
